* File: nand2.pex.netlist.pex
* Created: Thu Apr 16 20:25:48 2020
* Program "Calibre xRC"
* Version "v2015.4_16.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2%A 3 7 9 10 12
c15 12 0 0.0091714f
c16 10 0 0.00153797f
c17 9 0 0.00928792f
c18 7 0 0.0381776f
c19 3 0 0.0205752f
r20 12 15 89.3538
r21 9 15 14.64
r22 9 10 0.266723
r23 5 10 4.08464
r24 5 7 71.76
r25 1 10 4.08464
r26 1 3 31.2
.ends

.subckt PM_NAND2%GND 1 3 10 13
c6 11 0 0.00471718f
c7 10 0 0.0116195f
c8 3 0 0.0110157f
c9 1 0 0.00890112f
r10 11 13 0.482308
r11 10 14 0.213729
r12 10 13 0.321538
r13 5 11 0.212317
r14 3 5 1.00846
r15 1 14 0.861333
.ends

.subckt PM_NAND2%B 3 5 6 11 13 16
c17 16 0 0.00858451f
c18 14 0 0.00284914f
c19 13 0 0.00728003f
c20 11 0 0.0271415f
c21 8 0 0.0039273f
c22 6 0 0.00163426f
c23 5 0 0.00660467f
c24 3 0 0.0213509f
r25 16 19 89.3538
r26 13 19 14.64
r27 13 14 0.266723
r28 9 14 4.08464
r29 9 11 47.58
r30 8 14 4.08464
r31 7 8 14.04
r32 5 7 4.35808
r33 5 6 8.58
r34 1 6 4.35808
r35 1 3 33.54
.ends

.subckt PM_NAND2%Y 1 2 7 8 16 19
c17 19 0 0.00642122f
c18 16 0 0.0137944f
c19 8 0 0.00291775f
c20 7 0 0.00683927f
c21 2 0 0.0098786f
c22 1 0 0.0137386f
r23 14 16 0.467692
r24 13 19 0.0223169
r25 13 16 1.21308
r26 9 19 0.336154
r27 7 14 0.212415
r28 7 8 0.985185
r29 3 8 0.213083
r30 2 3 0.861333
r31 1 9 0.671333
.ends

.subckt PM_NAND2%VDD 2 3 4 17 20
c13 25 0 0.00251163f
c14 17 0 0.0299798f
c15 12 0 0.00792816f
c16 11 0 0.00513487f
c17 4 0 0.0104948f
c18 3 0 0.0138646f
c19 2 0 0.00979572f
r20 18 25 0.180951
r21 18 20 0.95
r22 17 21 0.213729
r23 17 20 2.06077
r24 13 25 0.0259362
r25 11 25 0.180951
r26 11 12 0.803846
r27 6 12 0.212317
r28 4 6 0.964615
r29 3 21 0.836
r30 2 13 0.836
.ends

