************************************************************************
* auCdl Netlist:
* 
* Library Name:  MULTIPLIER
* Top Cell Name: FA
* View Name:     schematic
* Netlisted on:  Jun 19 18:00:04 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter A B GND VDD
*.PININFO A:I GND:I VDD:I B:O
MM0 B A GND GND NMOS_VTL W=90n L=50n m=1
MM1 B A VDD VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    transmission
* View Name:    schematic
************************************************************************

.SUBCKT transmission GND IN IN2 IN3 OUT VDD
*.PININFO GND:I IN:I IN2:I IN3:I VDD:I OUT:O
MM0 IN IN3 OUT GND NMOS_VTL W=90n L=50n m=1
MM1 IN IN2 OUT VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    mux2X1
* View Name:    schematic
************************************************************************

.SUBCKT mux2X1 A B GND Q SEL VDD
*.PININFO A:I B:I GND:I SEL:I VDD:I Q:O
XI4 SEL net10 GND VDD / inverter
XI2 GND B net10 SEL Q VDD / transmission
XI1 GND A SEL net10 Q VDD / transmission
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    FA
* View Name:    schematic
************************************************************************

.SUBCKT FA A B Cin Cout GND Sum VDD
*.PININFO A:I B:I Cin:I GND:I VDD:I Cout:O Sum:O
XI8 A net21 GND VDD / inverter
XI7 B net19 GND VDD / inverter
XI3 A net21 GND Sum net14 VDD / mux2X1
XI2 B A GND Cout net14 VDD / mux2X1
XI1 B net19 GND net14 Cin VDD / mux2X1
.ENDS

