************************************************************************
* auCdl Netlist:
* 
* Library Name:  MULTIPLIER
* Top Cell Name: FA_2017
* View Name:     schematic
* Netlisted on:  Jun 19 18:14:13 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter A B GND VDD
*.PININFO A:I GND:I VDD:I B:O
MM0 B A GND GND NMOS_VTL W=90n L=50n m=1
MM1 B A VDD VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    pass_mux
* View Name:    schematic
************************************************************************

.SUBCKT pass_mux A B C Gnd Out Vdd
*.PININFO A:I B:I C:I Gnd:I Vdd:I Out:O
MM0 Out C B Gnd NMOS_VTL W=180.0n L=50n m=1
MM1 Out C A Vdd PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    FA_2017
* View Name:    schematic
************************************************************************

.SUBCKT FA_2017 A B Cin Cout GND Sum VDD
*.PININFO A:I B:I Cin:I GND:I VDD:I Cout:O Sum:O
XI6 net64 Sum GND VDD / inverter
XI5 net67 net64 GND VDD / inverter
XI4 net66 Cout GND VDD / inverter
XI3 net65 net66 GND VDD / inverter
XI8 A net62 GND VDD / inverter
XI7 B net60 GND VDD / inverter
XI2 A net62 net56 GND net67 VDD / pass_mux
XI1 B net60 Cin GND net56 VDD / pass_mux
XI0 B A net56 GND net65 VDD / pass_mux
.ENDS

